US09212187B2
1-Ethyl-3,3,5-trimethyl-7-{[2-(1-oxo-1H-isoquinolin-2-yl)ethylamino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
2-(2-Aminoethyl)-2H-isoquinolin-1-one (1.0 g) was added to a methanol solution (15 ml) of 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde (1.46 g). The mixture was stirred for 0.5 hours at room temperature. Sodium borohydride (0.23 g) was added to the mixture, and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction using dichloromethane. The organic layer was washed with water and saturated saline, dried with magnesium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=9:1→8:2). The purified product was condensed under reduced pressure to give the title compound(1.92 g) as a white solid.

reactant | 2-(2-Aminoethyl)-2H-isoquinolin-1-one | 1.0 g | NCCN1C(C2=CC=CC=C2C=C1)=O | C11H12N2O
reactant | methanol | 15 ml | CO | CH4O
reactant | 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbaldehyde | 1.46 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)C=O | C15H18N2O3
reactant | Sodium borohydride | 0.23 g | [BH4-].[Na+]
solvent | Water | O | H2O
product | 1-Ethyl-3,3,5-trimethyl-7-{[2-(1-oxo-1H-isoquinolin-2-yl)ethylamino]methyl}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.92 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCCN2C(C1=CC=CC=C1C=C2)=O | C26H30N4O3
